US04349684
[3-(4-Chlorophenyl)-2-oxo-4-phenyl-4-imidazolin-1-yl] acetic acid hexyl ester
1 g of [3-(4-chlorophenyl)-2-oxo-4-phenyl-4-imidazolin-1-yl] acetic acid are dissolved in a small amount of anhydrous chloroform. 0.7 g of thionylchloride are added thereto and the mixture is stirred at about 50° C. for 2 hours. The mixture is evaporated in a vacuum, the residue is mixed with a small amount of chloroform and 0.31 g of hexanol are added to the mixture. After stirring for one hour at room temperature, the CHCl3 -solution is first extracted with an NaHCO3 -solution and then with water. It finally is dried over Na2SO4. The CHCl3 -solution is evaporated, remaining hexanol is distilled off a high vacuum and the residue is further purified chromatographically on silicic acid gel using CHCl3 as eluant.

reactant | [3-(4-chlorophenyl)-2-oxo-4-phenyl-4-imidazolin-1-yl] acetic acid | 1 g | ClC1=CC=C(C=C1)N1C(N(C=C1C1=CC=CC=C1)CC(=O)O)=O | C17H13ClN2O3
reactant | thionylchloride | 0.7 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | [3-(4-Chlorophenyl)-2-oxo-4-phenyl-4-imidazolin-1-yl] acetic acid hexyl ester | C(CCCCC)OC(CN1C(N(C(=C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl)=O)=O | C23H25ClN2O3
